US05336780
Analogous to example 3, synthesis step 3, using 2.49 g (4.5 mmol) of 5-acetamido-3-tert.butyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)-pyrazole and 2.5 ml 80% strength hydrazine hydrate. Decomposition of excess hydrazinc hydrate was performed using Raney nickel. 1.0 g (63%) of 3-(2-ammonio-ethyl)-6-tert.butyl-pyrazolo[5,1-c]-[1,2,4]triazole tosylate with a m. pt. of 231°-240° C. were obtained.

reactant | 5-acetamido-3-tert.butyl-1-(3-phthalimido-O-tosyl-propanehydroximoyl)-pyrazole | 4.5 mmol, 2.49 g | C(C)(=O)NC1=CC(=NN1C(CCN1C(C=2C(C1=O)=CC=CC2)=O)=NOS(=O)(=O)C2=CC=C(C)C=C2)C(C)(C)C | C27H29N5O6S
reactant | hydrazine hydrate | O.NN
catalyst | Raney nickel | [Ni] | Ni
product | 3-(2-ammonio-ethyl)-6-tert.butyl-pyrazolo[5,1-c]-[1,2,4]triazole tosylate | 1.0 g, 63% | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH3+]CCC1N2C(N=N1)=CC(=N2)C(C)(C)C | InChI=1S/C10H17N5.C7H8O3S/c1-10(2,3)7-6-9-13-12-8(4-5-11)15(9)14-7;1-6-2-4-7(5-3-6)11(8,9)10/h6,8H,4-5,11H2,1-3H3;2-5H,1H3,(H,8,9,10)
